US05543409
In 1.65 l of warm water was dissolved 138.8 g of optically active 2-amino-5-[4,5-dihydropyridazin-3(2H)-on6-yl]indane·(-)-camphorsulfonate. Under cooling, 13.05 g of sodium hydroxide dissolved in 130 ml of water was added dropwise to the solution, and the mixture was cooled for 2 hours. Crystals precipitated were collected by filtration, dried and then recrystallized from methanol to obtain 66.6 g of (+)-2-amino-5-[4, 5-dihydropyridazin-3(2H)-on-6-yl]indane.

reactant | sodium hydroxide | 13.05 g | [OH-].[Na+]
reactant | 2-amino-5-[4,5-dihydropyridazin-3(2H)-on6-yl]indane·(-)-camphorsulfonate | NC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O.C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)[O-]
solvent | water | 1.65 l | O | H2O
solvent | water | 130 ml | O | H2O
product | (+)-2-amino-5-[4, 5-dihydropyridazin-3(2H)-on-6-yl]indane | 66.6 g | NC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C13H15N3O
